US07700638B2
5-Cyano-7-(3,4-methylenedioxyphenyl)-1-phenylbenzimidazole
5-Cyano-7-iodo-1-phenylbenzimidazole (173 mg, 0.5 mmol), toluene (3.0 ml), tetrakis(triphenylphosphine)palladium(0) (58 mg, 0.05 mmol), 3,4-methylene dioxyphenylboronic acid (83 mg, 0.5 mmol), ethanol (3.0 ml) and potassium carbonate (138 mg, 1.0 mmol) were combined and the mixture was stirred at reflux overnight The solvent was removed under reduced pressure and the crude product was purified on a 2 g silica Isolute® SPE column, eluting with dichloromethane/methanol (95:5). The eluent was concentrated under reduced pressure and product was crystallised from dichloromethane/diethyl ether to the title compound (75 mg, 44%) m/z, 339.8 (M+H)+.

reactant | 5-Cyano-7-iodo-1-phenylbenzimidazole | 0.5 mmol, 173 mg | C(#N)C1=CC2=C(N(C=N2)C2=CC=CC=C2)C(=C1)I | C14H8IN3
reactant | toluene | 3.0 ml | C1(=CC=CC=C1)C | C7H8
reactant | 3,4-methylene dioxyphenylboronic acid | 0.5 mmol, 83 mg | C1OC=2C=C(C=CC2O1)B(O)O | C7H7BO4
reactant | potassium carbonate | 1.0 mmol, 138 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.05 mmol, 58 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 3.0 ml | C(C)O | C2H6O
product | 5-Cyano-7-(3,4-methylenedioxyphenyl)-1-phenylbenzimidazole | C(#N)C1=CC2=C(N(C=N2)C2=CC=CC=C2)C(=C1)C1=CC2=C(C=C1)OCO2 | C21H13N3O2
